US07125901B2
A mixture of 4-nitrobenzyl bromide (381 mg), triphenylphosphine (463 mg) and N,N-dimethylformamide (3 ml) was stirred for 5 hours at room temperature. To the mixture were added potassium butoxide (238 mg) and then N-(4-formyl-1,3-thiazol-2-yl)-2-methylpropanamide (350 mg), and the mixture was stirred for 13 hours at the same temperature. The reaction mixture was poured into ethyl acetate (20 ml) and water (20 ml). The organic layer was washed with water (20 ml), dried over sodium sulfate and concentrated in vacuo. The crystalline residue was collected and washed to give 2-methyl-N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}propanamide (360 mg).

reactant | 4-nitrobenzyl bromide | 381 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | triphenylphosphine | 463 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium butoxide | 238 mg | [O-]CCCC.[K+]
reactant | N-(4-formyl-1,3-thiazol-2-yl)-2-methylpropanamide | 350 mg | C(=O)C=1N=C(SC1)NC(C(C)C)=O | C8H10N2O2S
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-methyl-N-{4-[(E)-2-(4-nitrophenyl)ethenyl]-1,3-thiazol-2-yl}propanamide | 360 mg | CC(C(=O)NC=1SC=C(N1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-])C | C15H15N3O3S
